US07989454B2
4-{3-[6-(5-dimethylcarbamoyl-4′-fluoro-3′-hydroxy-biphenyl-3-yloxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy}-butyric acid ethyl ester
The title compound was prepared by the same method as 4-{3-[6-(5-dimethylcarbamoyl-3′,4′-difluoro-biphenyl-3-yloxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy}-butyric acid ethyl ester starting from 4-{3-[6-(3-bromo-5-dimethylcarbamoyl-phenoxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy}-butyric acid ethyl ester (150 mg, 0.236 mmol), 4-fluoro-3-hydroxyphenylboronic acid (74 mg, 0.472 mmol), PdCl2(dppf) (29 mg, 0.04 mmol) and cesium carbonate (153 mg, 0.472 mmol) in dimethoxyethane (5 mL) to obtain 4-{3-[6-(5-dimethylcarbamoyl-4′-fluoro-3′-hydroxy-biphenyl-3-yloxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy}-butyric acid ethyl ester (150 mg, 95%) as a colorless oil.

reactant | 4-{3-[6-(5-dimethylcarbamoyl-3′,4′-difluoro-biphenyl-3-yloxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy}-butyric acid ethyl ester | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC=1C=C(C=C(C1)C(N(C)C)=O)C1=CC(=C(C=C1)F)F)CCC(=O)OCC)=O | C38H47F2NO7
reactant | 4-{3-[6-(3-bromo-5-dimethylcarbamoyl-phenoxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy}-butyric acid ethyl ester | 0.236 mmol, 150 mg | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC1=CC(=CC(=C1)C(N(C)C)=O)Br)CCC(=O)OCC)=O | C32H44BrNO7
reactant | 4-fluoro-3-hydroxyphenylboronic acid | 0.472 mmol, 74 mg | FC1=C(C=C(C=C1)B(O)O)O | C6H6BFO3
reactant | cesium carbonate | 0.472 mmol, 153 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethoxyethane | 5 mL | C(OC)COC | C4H10O2
catalyst | PdCl2(dppf) | 0.04 mmol, 29 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-{3-[6-(5-dimethylcarbamoyl-4′-fluoro-3′-hydroxy-biphenyl-3-yloxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy}-butyric acid ethyl ester | 150 mg, 95% | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC=1C=C(C=C(C1)C(N(C)C)=O)C1=CC(=C(C=C1)F)O)CCC(=O)OCC)=O | C38H48FNO8
